US07947738B2
(10-a) Methyl 4-allyl-3-hydroxyoctanoate
2-Allylhexanal (J. Org. Chem. 46, 1980, 5250) (5 g, 33.7 mmol), methyl bromoacetate (3.7 mL, 40 mmol), and zinc (2.6 g, 40 mmol) were added to tetrahydrofuran (30 mL) and trimethyl borate (15 mL), and the mixture was vigorously stirred. Then, the reaction vessel was placed in an oil bath and heated to 70° C., and the mixture was stirred for 2 hours. The mixture was allowed to cool, and glycerin (20 mL) and a saturated aqueous solution of ammonium chloride (100 mL) were then added thereto, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated saline and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest (diastereomeric mixture) as a colorless oil substance (6.8 g, 94%).

reactant | 2-Allylhexanal | 33.7 mmol, 5 g | C(C=C)C(C=O)CCCC | C9H16O
reactant | methyl bromoacetate | 40 mmol, 3.7 mL | BrCC(=O)OC | C3H5BrO2
reactant | trimethyl borate | 15 mL | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
catalyst | zinc | 40 mmol, 2.6 g | [Zn] | Zn
solvent | glycerin | 20 mL | OCC(O)CO | C3H8O3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Methyl 4-allyl-3-hydroxyoctanoate | C(C=C)C(C(CC(=O)OC)O)CCCC | C12H22O3
